US04772600
2-(3-Chlorophenyl)-N-(3-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride [1:2]
Under a nitrogen atmosphere, oxalyl chloride (1.4 ml, 0.015 mole) was added dropwise (slowly) to a stirred and chilled (25°-30° C.) solution of 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.00 g, 0.0138 mole) in anhydrous dimethylformamide (75 ml). The reaction mixture was heated at 55°-60° C. for 31/2 hrs, cooled to room temperature, and added dropwise to a stirred and chilled (15°-20° C.) solution of 3-aminopyridine (1.50 g, 0.016 mole) and triethylamine (1.62 g, 0.016 mole) in anhydrous dimethylformamide (25 ml). The reaction mixture was stirred at room temperature overnight, filtered, and poured into ice water (500 ml). The mixture was extracted with ethyl acetate (3×75 ml). The combined organic portions were washed with 5% potassium hydroxide solution (2×50 ml), water (50 ml), brine (25 ml), dried over sodium sulfate and concentrated in vacuo. The residue was dissolved in tetrahydrofuran and treated with excess ethereal hydrogen chloride and isopropyl ether giving 2.5 g (41%). Recrystallization from isopropyl alcohol-ethanol-isopropyl ether gave 0.82 g. This was combined with a second crop of 0.43 g to give an off-white solid which underwent a phase change from 157°-163° C. and then decomposed at 186°-192° C.

reactant | oxalyl chloride | 0.015 mole, 1.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0138 mole, 4.00 g | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 3-aminopyridine | 0.016 mole, 1.50 g | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 0.016 mole, 1.62 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-(3-Chlorophenyl)-N-(3-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride | Cl.ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)NC=1C=NC=CC1 | InChI=1S/C19H14ClN5O.ClH/c20-14-5-1-4-13(10-14)18-24-16-7-3-9-22-19(16)25(18)12-17(26)23-15-6-2-8-21-11-15;/h1-11H,12H2,(H,23,26);1H
